US08975436B2
Epsilon-caprolactone (0.012 mol, 1.37 g) and (C4H9)4NOH (55% w/w in water, 0.012 mol, 5.66 g) were mixed and heated at 65° C. for 2 hr. Then, water was evaporated by a rotary evaporator. DMF (20 mL) and 4-(N-methylperfluorobutanesulfonamidomethyl)-4′-chloromethylbiphenyl (0.01 mol, 5.28 g) were added. The solution was stirred at 65° C. for 2 hr. The solution was diluted by ethyl acetate, washed by water, dried by anhydrous magnesium sulfate. Evaporation of solvent by a rotary evaporator gave 5.0 g of 4′-(N-methylperfluorobutanesulfonamidomethyl)-4′-(6-hydroxyhexanoyloxymethyl) biphenyl.

reactant | Epsilon-caprolactone | 0.012 mol, 1.37 g | C1(CCCCCO1)=O | C6H10O2
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | 4-(N-methylperfluorobutanesulfonamidomethyl)-4′-chloromethylbiphenyl | 0.01 mol, 5.28 g | CN(S(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)C(C1=CC=C(C=C1)C1=CC=C(C=C1)CCl)(F)F | C19H13ClF11NO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-(N-methylperfluorobutanesulfonamidomethyl)-4′-(6-hydroxyhexanoyloxymethyl) biphenyl | 5.0 g | CN(S(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)C(C1(CC=C(C=C1)C1=CC=CC=C1)COC(CCCCCO)=O)(F)F | C25H26F11NO5S
